US04018780
To a stirred suspension of 55 g. (0.183 mole) of 2-(4-fluorophenylthio)-5-nitroaniline hydrochloride in 450 ml. of acetic acid at 16 to 18° C. is added dropwise 18.6 g. (0.181 mole of n-butyl nitrite during a period of 20 minutes. The solution is then diluted with 1.5 liters of cold (12° C.) of 50 percent aqueous acetic acid. The solution is maintained at 10 to 12° C., and 68 g. of copper powder are added in small portions during a period of 15 minutes. After stirring at 10° to 15° C. for an additional 20 minutes, the mixture is heated and stirred at 50° C. for 1 hour. The mixture is cooled to 5° C. and filtered. The solid residue is washed thrice with 300 ml. of aqueous sodium hydroxide, then thrice with 300 ml. of distilled water. The brown solid is dissolved in hot benzene, filtered and the hot filtrate treated with decolorizing charcoal. The benzene is evaporated to give a residue which is twice recrystallized from benzene to give off-white crystals of 2-fluoro- 8-nitrodibenzothiophene, m.p. 200°-202° C.

reactant | 2-(4-fluorophenylthio)-5-nitroaniline hydrochloride | 0.183 mole | Cl.FC1=CC=C(C=C1)SC1=C(N)C=C(C=C1)[N+](=O)[O-]
reactant | n-butyl nitrite | 0.181 mole | N(=O)OCCCC | C4H9NO2
solvent | acetic acid | C(C)(=O)O | C2H4O2
catalyst | copper | [Cu] | Cu
product | 2-fluoro- 8-nitrodibenzothiophene | FC1=CC2=C(SC3=C2C=C(C=C3)[N+](=O)[O-])C=C1 | C12H6FNO2S
